US08455663B2
A mixture of 2-(methanesulfonyloxy)-butyronitrile (204 mg, 1.25 mmol) (prepared following Marco et. al., Tetrahedron, 2000, 56, 2525-31) 2-chloro-3-trifluoromethylphenol (196 mg, 1.0 mmol) and potassium carbonate (172 mg, 1.25 mmol) in acetonitrile (5 ml) was stirred for 1 hour at 95° C. The mixture was shaken between tBuOMe and water and the ethereal phase dried with Na2SO4, filtered over a silicagel pad and evaporated to give as yellowish oil 2-(2-chloro-3-trifluoromethyl-phenoxy)-butyronitrile; 1H-NMR (CDCl3): 1.27 t, 3H, 2.20 m, 2H, 2.40 s, 3H, 4.78 t, 1H, 7.34, d, 1H; 7.39, t, 1H, 7.48 d, 1H.

reactant | 2-(methanesulfonyloxy)-butyronitrile | 1.25 mmol, 204 mg | CS(=O)(=O)OC(C#N)CC | C5H9NO3S
reactant | 2-chloro-3-trifluoromethylphenol | 1.0 mmol, 196 mg | ClC1=C(C=CC=C1C(F)(F)F)O | C7H4ClF3O
reactant | potassium carbonate | 1.25 mmol, 172 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tBuOMe | C(C)(C)(C)OC | C5H12O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-(2-chloro-3-trifluoromethyl-phenoxy)-butyronitrile | ClC1=C(OC(C#N)CC)C=CC=C1C(F)(F)F | C11H9ClF3NO
